US07977358B2
D] [1-(2-Methoxy-5-trifluoromethyl-phenyl)-3,5-dimethyl-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone
In analogy to the procedure described in Example 18], 1-(2-methoxy-5-trifluoromethyl-phenyl)-3,5-dimethyl-1H-pyrazole-4-carboxylic acid and 4-pyrrolidine-1-yl-piperidine gave, after purification on a flash isolute NH2-column (EtOAc:n-heptane 4:1), the title compound in 27% yield as yellow oil. MS: 451.2 (MH+).

reactant | 1-(2-methoxy-5-trifluoromethyl-phenyl)-3,5-dimethyl-1H-pyrazole-4-carboxylic acid | COC1=C(C=C(C=C1)C(F)(F)F)N1N=C(C(=C1C)C(=O)O)C | C14H13F3N2O3
reactant | 4-pyrrolidine-1-yl-piperidine | N1(CCCC1)C1CCNCC1 | C9H18N2
product | [1-(2-Methoxy-5-trifluoromethyl-phenyl)-3,5-dimethyl-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone | 27% yield | COC1=C(C=C(C=C1)C(F)(F)F)N1N=C(C(=C1C)C(=O)N1CCC(CC1)N1CCCC1)C | C23H29F3N4O2
